US08309598B2
Preparation of 5-(4H-benzo[d][1,3]oxathiin-2-yl)-2,3-dimethoxyphenol
Following the same procedure as outlined in Example 1 step b), 3-hydroxy-4,5-dimethoxybenzaldehyde (1.08 g, 5.95 mmol) and (2-mercaptophenyl)methanol (1 g, 7.14 mmol) in dichloromethane (30 ml) %% ere treated with hydrogen chloride gas. After workup and chromatography, as in example 1 step b), the subtitle compound was obtained (1.06 g, 59%) as a white solid. 1H NMR (300 MHz, CDCl3, ppm) δ 3.88 (s, 3H); 3.89 (s, 3H); 5.04-5.14 (m, 2H); 5.85 (s, 1H); 6.01 (s, 1H); 6.72 (d, J=2 Hz, 1H); 6.76 (d, J=2 Hz, 1H); 6.98-7.04 (m, 1H); 7.05-7.19 (m, 3H); 13C NMR (75 MHz, CDCl3, ppm) δ 56.1; 61.1; 70.5; 82.9; 102.4; 106.7; 125.1; 126.0; 127.48; 127.5; 129.8; 132.9; 134.2; 136.1; 149.4; 152.8; MS calculated for C16H16O4S+H 305 observed 305.

reactant | 3-hydroxy-4,5-dimethoxybenzaldehyde | 5.95 mmol, 1.08 g | OC=1C=C(C=O)C=C(C1OC)OC | C9H10O4
reactant | (2-mercaptophenyl)methanol | 7.14 mmol, 1 g | SC1=C(C=CC=C1)CO | C7H8OS
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-(4H-benzo[d][1,3]oxathiin-2-yl)-2,3-dimethoxyphenol | S1C(OCC2=C1C=CC=C2)C=2C=C(C(=C(C2)O)OC)OC | C16H16O4S
